* D:\2024-25\Education\ELE713\Project\[03] Simulation\Close-Loop-Forward-Converter-REALISTIC.asc
R2 N022 SEC {RL}
C1 N022 SEC {Cf} Rser=50m
D2 0 N013 RFUH25NS3S
D1 N020 N021 D1
D3 SEC N021 D1
L4 N021 N022 {Lf} Rser=50m
L§ind3 N013 Vin {L3} Rser=20m
L§ind2 N020 SEC {L2} Rser=20m
L§ind1 Vin N009 {L1} Rser=20m
B1 Vin 0 V=V(Vi)
Rs N015 0 8m
R4 N015 N016 10
C3 N016 0 2.2n
R6 N024 0 100k
R7 0 N023 160k
R8 0 N018 178k
C4 N017 0 2.2n
C5 Vref 0 0.1µ
R9 Vref N017 12k
R10 N017 0 18k
R11 Vin N014 240k
R12 N014 0 10k
XU2 N008 SEC N030 N028 N031 P001 LT4430
R13 N022 N028 200K
R14 N028 SEC 27k
R15 P002 N031 8.2k
C7 N028 P002 10n
C8 N030 SEC 100p
R16 P001 N027 860
M1 N009 N012 N015 N015 IPB200N25N3
XU1 N019 FB N018 MP_01 N017 Vref N014 0 N024 N016 N016 N023 0 N012 Vaux N025 LT1952-1
R21 0 SEC 1Meg
R22 N012 N015 10k
R1 N019 FB 22k
R3 N026 Vaux 220
R17 N029 FB 22k
R5 0 N029 1.2k
Q1 0 Vref N029 0 BC856B
XU3 N027 SEC N026 N029 NC_02 4N27
Vi Vi 0 PWL(0 0 0.499m 0 0.5m 36 2m 36 6m 36 6.01m 60)
C9 N001 0 22µ Rser=2m
D4 N003 N002 D1
L§ind4 N003 0 {L4} Rser=20m
C10 Vaux 0 1µ
D6 0 Vaux PDZV16B
Q2 N001 N007 Vaux 0 2SC5824
R18 Vaux Vin 4.7k
R19 N001 N007 4.7k
D5 0 N007 UDZV12B
D7 0 N002 D1
L1 N002 N001 10µ
C12 N006 SEC 10µ
D9 N004 N005 D1
L§ind5 N004 SEC {L4} Rser=20m
D11 SEC N005 D1
L2 N005 N006 10µ
R20 N008 SEC 39
C14 N006 SEC 10µ
C2 0 Vaux 100µ
C6 N008 SEC 10µ
D8 SEC N008 TFZV12B
R23 N006 N008 1
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.1 0 1e-7 startup
K1 ind1 ind2 ind3 ind4 ind5 1
.param L1 190u
.param L2  30.4u
.param L3 190u
.param L4 78u
.param fs  200k
.param Cf 220u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 20u
.ic V(C10) = 8
.ic V(Vaux) = 8
.lib 4N27.sub
.lib LT1952-1.sub
.lib LT4430.sub
.backanno
.end
