* D:\2024-25\Education\ELE713\Project\[03] Simulation\Close-Loop-Forward-Converter-REALISTIC.asc
R2 N021 SEC {10*RL}
C1 N021 SEC {Cf} Rser=50m
D2 0 N012 RFUH25NS3S
D1 N019 N020 D1
D3 SEC N020 D1
L4 N020 N021 {Lf} Rser=50m
L§ind3 N012 Vin {L3} Rser=20m
L§ind2 N019 SEC {L2} Rser=20m
L§ind1 Vin N008 {L1} Rser=20m
B1 Vin 0 V=V(Vi)
Rs N014 0 8m
R4 N014 N015 10
C3 N015 0 2.2n
R6 N023 0 100k
R7 0 N022 160k
R8 0 N017 178k
C4 N016 0 2.2n
C5 Vref 0 0.1µ
R9 Vref N016 12k
R10 N016 0 18k
R11 Vin N013 240k
R12 N013 0 10k
XU2 N007 SEC N031 N029 N032 P001 LT4430
R13 N021 N029 200K
R14 N029 SEC 27k
R15 P002 N032 8.2k
C7 N029 P002 10n
C8 N031 SEC 100p
R16 P001 N028 860
M1 N008 N011 N014 N014 IPB200N25N3
XU1 N018 FB N017 MP_01 N016 Vref N013 0 N023 N015 N015 N022 0 N011 Vaux N024 LT1952-1
R21 0 SEC 1Meg
R22 N011 N014 10k
R1 N018 FB 22k
R3 N027 Vaux 220
R17 N030 FB 22k
R5 0 N030 1.2k
Q1 0 Vref N030 0 BC856B
XU3 N028 SEC N027 N030 NC_02 4N27
Vi Vi 0 PWL(0 0 0.499m 0 0.5m 36 1m 36 2m 36 2.01m 60)
C9 N001 0 22µ Rser=2m
D4 N003 N002 D1
L§ind4 N003 0 {L4} Rser=20m
C10 Vaux 0 1µ
D6 0 Vaux PDZV16B
Q2 N001 N006 Vaux 0 2SC5824
R18 Vaux Vin 4.7k
R19 N001 N006 4.7k
D5 0 N006 UDZV12B
D7 0 N002 D1
L1 N002 N001 10µ
C12 Vc SEC 10µ
D9 N004 N005 D1
L§ind5 N004 SEC {L4} Rser=20m
D11 SEC N005 D1
L2 N005 Vc 10µ
R20 N007 SEC 39
C14 Vc SEC 10µ
C2 0 Vaux 100µ
C6 N007 SEC 22µ
R23 Vc N007 1
B2 N007 SEC V=if(V(Vc,SEC)<12, V(Vc,SEC), 12)
B3 N025 N026 V= if(V(Vin) >50,5, 0)
R24 N021 P003 0.6944
S1 SEC P003 N025 N026 NMOS
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.1 0 1e-7 startup
K1 ind1 ind2 ind3 ind4 ind5 1
.param L1 190u
.param L2  30.4u
.param L3 190u
.param L4 78u
.param fs  200k
.param Cf 220u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 20u
.ic V(C10) = 8
.ic V(Vaux) = 8
.ic V(C2) = 8
.lib 4N27.sub
.lib LT1952-1.sub
.lib LT4430.sub
.backanno
.end
