* D:\2024-25\Education\ELE713\Project\[03] Simulation\Close-Loop-Forward-Converter-REALISTIC.asc
R2 N023 SEC {10*RL}
C1 N023 SEC {Cf} Rser=20m
D2 0 N011 RFUH25NS3S
L4 FWD N023 {Lf} Rser=50m
L§ind3 N011 Vin {L3} Rser=20m
L§ind2 FWD N026 {L2} Rser=20m
L§ind1 Vin N007 {L1} Rser=20m
B1 Vin 0 V=V(Vi)
Rs N013 0 8m
R4 N013 N014 10
C3 N014 0 2.2n
R6 N027 0 100k
R7 0 N025 160k
R8 0 N018 178k
C4 N017 0 2.2n
C5 Vref 0 0.1µ
R9 Vref N017 12k
R10 N017 0 18k
R11 Vin N012 240k
R12 N012 0 10k
XU2 VccBias SEC N034 N032 N035 P001 LT4430
R13 N023 N032 200K
R14 N032 SEC 27k
R15 P002 N035 8.2k
C7 N032 P002 8.2n
C8 N034 SEC 100p
R16 P001 N031 860
M1 N007 N010 N013 N013 IPB200N25N3
XU1 N019 FB N018 MP_01 N017 Vref N012 0 N027 N014 N014 N025 0 N010 Vaux Sout LT1952-1
R21 0 SEC 1Meg
R22 N010 N013 10k
R1 N019 FB 10k
R3 N030 Vaux 220
R17 N033 FB 10k
R5 0 N033 1.2k
Q1 0 Vref N033 0 BC856B
XU3 N031 SEC N030 N033 NC_02 4N27
Vi Vi 0 PWL(0 0 0.499m 0 0.5m 36 1m 36 2m 36 2.01m 60)
C9 N001 0 22µ Rser=2m
D4 N003 N002 D1
L§ind4 N003 0 {L4} Rser=20m
C10 Vaux 0 1µ
D6 0 Vaux PDZV16B
Q2 N001 N006 Vaux 0 2SC5824
R18 Vaux Vin 4.7k
R19 N001 N006 4.7k
D5 0 N006 UDZV12B
D7 0 N002 D1
L1 N002 N001 10µ
C12 Vc SEC 10µ
D9 N004 N005 D1
L§ind5 N004 SEC {L4} Rser=20m
D11 SEC N005 D1
L2 N005 Vc 10µ
R20 VccBias SEC 39
C14 Vc SEC 10µ
C2 0 Vaux 100µ
C6 VccBias SEC 22µ
R23 Vc VccBias 1
B2 VccBias SEC V=if(V(Vc,SEC)<12, V(Vc,SEC), 12)
B3 N028 N029 V= if(V(Vin) >50,5, 0)
R24 N023 P003 0.6944
S1 SEC P003 N028 N029 NMOS
C11 N032 N035 220p
XU4 N016 N024 CG VccBias FG SEC N015 N022 LTC3900
Rtmr1 VccBias N015 90.9k
Ctmr1 N015 SEC 0.47n
Rcs1 FWD N016 365
Rcs2 SEC N016 360
Rcs3 SEC N024 182
L3 0 N020 300µ Rser=13m
L5 N021 SEC 300µ Rser=7m
C13 N020 Sout 220pF
R25 SEC N022 200
C15 Sout 0 100p
L6 N022 N021 50n
M4 N026 FG SEC SEC HAT2266
M5 FWD CG SEC SEC HAT2266
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.1 0 1e-7 startup
K1 ind1 ind2 ind3 ind4 ind5 1
K2 L3 L5 1
.param L1 190u
.param L2  30.4u
.param L3 190u
.param L4 78u
.param fs  200k
.param Cf 220u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 20u
.ic V(C10) = 8
.ic V(Vaux) = 8
.ic V(C2) = 8
.model HAT2266 VDMOS(Rg=0.5 Vto=2.3 Rd=4m Rs=1m Rb=5m Kp=70 lambda=.05 Cgdmax=0.65n Cgdmin=.08n Cgs=3.455n Cjo=1.2n Is=120p ksubthres=.1 mfg=Furkan Vds=60 Ron=12m Qg=25n)
.lib 4N27.sub
.lib LT1952-1.sub
.lib LT4430.sub
.lib LTC3900.sub
.backanno
.end
