* D:\2024-25\Education\ELE713\Project\[03] Simulation\Close-Loop-Forward-Converter-REALISTIC.asc
R2 N007 SEC {10*RL}
C1 N007 SEC {Cf} Rser=20m
D2 0 N016 RFUH25NS3S
L4 FWD N007 {Lf} Rser=50m
L§ind3 N016 Vin {L3} Rser=20m
L§ind2 FWD N010 {L2} Rser=20m
L§ind1 Vin N009 {L1} Rser=20m
B1 Vin 0 V=V(Vi)
Rs N019 0 8m
R4 N019 N018 47
C3 N018 0 2.2n
R6 N024 0 100k
R7 0 N023 160k
R8 0 N021 178k
C4 N020 0 2.2n
C5 Vref 0 0.1µ
R9 Vref N020 12k
R10 N020 0 18k
R11 Vin N012 240k
R12 N012 0 10k
XU2 VccBias SEC N031 N028 N032 P001 LT4430
R13 N007 N028 200K
R14 N028 SEC 27k
R15 P002 N032 8.2k
C7 N028 P002 10n
C8 N031 SEC 100p
R16 P001 N027 860
M1 N009 N013 N019 N019 IPB200N25N3
XU1 N022 FB N021 MP_01 N020 Vref N012 0 N024 N018 N018 N023 0 N013 Vaux Sout LT1952-1
R21 0 SEC 1Meg
R22 N013 N019 10k
R1 N022 FB 10k
R3 N026 Vaux 220
R17 N030 FB 10k
R5 0 N030 1.2k
Q1 0 Vref N030 0 BC856B
Vi Vi 0 PWL(0 0 0.499m 0 0.5m 36 1m 36 2m 36 2.01m 60)
C9 N001 0 22µ Rser=2m
D4 N003 N002 D1
L§ind4 N003 0 {L4} Rser=20m
C10 Vaux 0 1µ
D6 0 Vaux PDZV16B
Q2 N001 N006 Vaux 0 2SC5824
R18 Vaux Vin 4.7k
R19 N001 N006 4.7k
D5 0 N006 UDZV12B
D7 0 N002 D1
L1 N002 N001 10µ
C12 Vc SEC 10µ
D9 N004 N005 D1
L§ind5 N004 SEC {L4} Rser=20m
D11 SEC N005 D1
L2 N005 Vc 10µ
R20 VccBias SEC 39
C14 Vc SEC 10µ
C2 0 Vaux 100µ
C6 VccBias SEC 22µ
R23 Vc VccBias 1
B2 VccBias SEC V=if(V(Vc,SEC)<12, V(Vc,SEC), 12)
B3 N008 N011 V= if(V(Vin) >50,0, 5)
R24 N007 P003 0.6944
S1 SEC P003 N008 N011 NMOS
C11 N028 N032 220p
XU4 N029 N034 CG VccBias FG SEC N025 N033 LTC3900
Rtmr1 VccBias N025 90.9k
Ctmr1 N025 SEC 0.47n
Rcs1 FWD N029 365
Rcs2 SEC N029 360
Rcs3 SEC N034 182
L3 0 N035 300µ Rser=13m
L5 N036 SEC 300µ Rser=7m
C13 N035 Sout 220pF
R25 SEC N033 200
C15 Sout 0 100p
L6 N033 N036 50n
M4 N010 N015 SEC SEC HAT2266
M5 FWD N017 SEC SEC HAT2266
R27 N015 FG 25
R28 N017 CG 25
D1 N015 FG 1N4148
D3 N017 CG 1N4148
XU3 N027 SEC N026 N030 NC_02 4N27
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.1 0 1e-7 startup
K1 ind1 ind2 ind3 ind4 ind5 1
K2 L3 L5 1
.param L1 190u
.param L2  30.4u
.param L3 190u
.param L4 94u
.param fs  200k
.param Cf 220u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 20u
.ic V(C10) = 8
.ic V(Vaux) = 8
.ic V(C2) = 8
.model HAT2266 VDMOS(Rg=0.5 Vto=2.3 Rd=4m Rs=1m Rb=5m Kp=70 lambda=.05 Cgdmax=0.65n Cgdmin=.08n Cgs=3.455n Cjo=1.2n Is=120p ksubthres=.1 mfg=Furkan Vds=60 Ron=12m Qg=25n)
.lib 4N27.sub
.lib LT1952-1.sub
.lib LT4430.sub
.lib LTC3900.sub
.backanno
.end
